US05124451
N-butyl-N'-isopropylurea was prepared in a yield of 58% as described in Example 1, but using 2.04 g of N-isopropylurea (20 mmol) as the urea and 2.74 g of butylbromide (20 mmol) as the alkylating agent.

reactant | N-isopropylurea | 20 mmol, 2.04 g | C(C)(C)NC(=O)N | C4H10N2O
reactant | urea | NC(=O)N | CH4N2O
reactant | butylbromide | 20 mmol, 2.74 g | C(CCC)Br | C4H9Br
product | N-butyl-N'-isopropylurea | yield of 58% | C(CCC)NC(=O)NC(C)C | C8H18N2O
